US06992083B2
To a stirred solution of 106 mg (0.52 mmol) 2-bromo-isonicotinic acid in 5 ml THF were added 230 mg (0.60 mmol) HATU and 0.10 ml (0.60 mmol) N-ethyldiisopropyl-amine and stirring continued at room temperature for 5 h. A solution of 100 mg (0.40 mmol) 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-ylamine in 5 ml dioxane and 1 ml DMF was then added and stirring continued at 40° C. for 72 h. The reaction mixture was then poured into 100 ml water and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (dichoromethane then methanol/dichloromethane 20/80) followed by trituration in ether afforded 146 mg (84%) 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-isonicotinamide as a white crystalline solid. ES-MS m/e (%): 434 (M{81Br}+H+, 95), 432 (M{79Br}+H+, 100).

reactant | 2-bromo-isonicotinic acid | 0.52 mmol, 106 mg | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | HATU | 0.60 mmol, 230 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropyl-amine | 0.60 mmol, 0.10 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-ylamine | 0.40 mmol, 100 mg | COC1=CC=C(C2=C1N=C(O2)N)C2CCOCC2 | C13H16N2O3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-isonicotinamide | 146 mg, 84% | BrC=1C=C(C(=O)NC=2OC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C19H18BrN3O4
